US07544697B2
Under a nitrogen atmosphere, a mixture of di(tert-butyl) 1-pent-4-ynyl-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate (4.00 g, 8.05 mmol), prepared as described in Example 615, α-chlorobenzaldoxime (2.51 g, 16.1 mmol), prepared as described in Example 596, anhydrous triethylamine (1.7 mL, 12.1 mmol), and anhydrous dichloromethane (25 mL) was heated at 40° C. for 18 hours. The reaction mixture was diluted with dichloromethane, washed sequentially with potassium carbonate, water, and brine, dried over sodium sulfate, and filtered. The filtrate was loaded onto a silica gel column (250 g) and eluted with a gradient of 30-40% ethyl acetate in hexanes. The fractions containing product were combined and concentrated under reduced pressure to provide 2.97 g of di(tert-butyl) 1-[3-(3-phenylisoxazol-5-yl)propyl]-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate as a pale yellow solid.

reactant | di(tert-butyl) 1-pent-4-ynyl-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 8.05 mmol, 4.00 g | C(CCC#C)C=1N(N=C2C(=NC=3CCCCC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C28H40N4O4
reactant | α-chlorobenzaldoxime | 16.1 mmol, 2.51 g | ClC(C1=CC=CC=C1)=NO | C7H6ClNO
reactant | triethylamine | 12.1 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | di(tert-butyl) 1-[3-(3-phenylisoxazol-5-yl)propyl]-2-propyl-6,7,8,9-tetrahydro-2H-pyrazolo[3,4-c]quinolin-4-ylimidodicarbonate | 2.97 g | C1(=CC=CC=C1)C1=NOC(=C1)CCCC=1N(N=C2C(=NC=3CCCCC3C21)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCC | C35H45N5O5
